US07723368B2
Step 1) 2-Fluoro-5-trimethylsilanylethynyl-benzonitrile
The title compound was prepared in substantially the same manner as described in Example 1, step 3 starting from 2-Fluoro-5-iodo-benzonitrile (1.0 g, 4.14 mmol), and Ethynyl-trimethyl-silane (0.487 g, 4.97 mmol), and was obtained as a waxy brown solid, (0.90 g, 99%), identified by NMR and mass spectral analyses. MS (EI+): 216 (M+).

reactant | 2-Fluoro-5-iodo-benzonitrile | 4.14 mmol, 1.0 g | FC1=C(C#N)C=C(C=C1)I | C7H3FIN
reactant | Ethynyl-trimethyl-silane | 4.97 mmol, 0.487 g | C(#C)[Si](C)(C)C | C5H10Si
product | 2-Fluoro-5-trimethylsilanylethynyl-benzonitrile | FC1=C(C#N)C=C(C=C1)C#C[Si](C)(C)C | C12H12FNSi
